US05663200
62a) 5(S)-[1(S)-(Boc-Amino)-2-(p-hydroxyphenyl)ethyl]-dihydrofuran-2-(3H)-one
Hydrogenating 3.0 g (7.29 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)ethyl]dihydrofuran-2-(3H)-one [preparation, see Example 1g)] in 100 ml of methanol with 0.6 g of 10% Pd/C results in the title compound, after filtering off the catalyst and evaporating the filtrate: tRet (II)=10.6 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)ethyl]dihydrofuran-2-(3H)-one | 7.29 mmol, 3.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C24H29NO5
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 5(S)-[1(S)-(Boc-Amino)-2-(p-hydroxyphenyl)ethyl]-dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)[C@@H]1CCC(O1)=O | C17H23NO5
